US04035386
A solution of 5.0 g. of 2-{4-[3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propynyl]-1-piperazinyl}-ethanol in 50 ml. of acetic anhydride is heated for 15 minutes on a steam-bath. After evaporation of the excess acetic anhydride under greatly reduced pressure, the resulting oil is taken up in ether and washed with saturated sodium bicarbonate solution. By concentration of the ethereal phase, there is obtained 2-{4-[3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propynyl]-1-piperazinyl}-ethyl acetate which melts at 96°-99° C. after recrystallization from ethyl acetate/hexane.

reactant | 2-{4-[3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propynyl]-1-piperazinyl}-ethanol | ClC=1C=CC2=C(C(=CC3=C(S2)C=CC=C3)C#CCN3CCN(CC3)CCO)C1 | C23H23ClN2OS
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-{4-[3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propynyl]-1-piperazinyl}-ethyl acetate | C(C)(=O)OCCN1CCN(CC1)CC#CC1=CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2 | C25H25ClN2O2S
